US04582907
2-(2-Amino-2-thiazolin-4-yl)acetic Acid Hydrochloride
A solution of 9.3 g. (0.05 mole) methyl 4-bromocrotonate, 3.9 g. (0.05 mole) thiourea and 8.4 g. (0.10 mole) sodium bicarbonate in 200 ml. acetone was heated at reflux for two hours. The resulting mixture was filtered and the filtrate evaporated at reduced pressure to yield 10.0 g. of crude methyl 2-amino-(2-thiazoline)-4-acetate. The methyl ester was dissolved in 60 ml. of 20% (w/w) aqueous methanol, heated with 2.3 g. (0.05 mole) sodium hydroxide and stirred at room temperature for 18 hours. The resulting solution was acidified (pH 1.0) with 6N hydrochloric acid and evaporated to dryness. The solid residue was dissolved in water and washed with methylene chloride. The aqueous layer was separated and evaporated in vacuo to afford a residual oil which solidified upon trituration with acetone to yield 4.5 g (56%). The solid was taken up in methanol, treated with activated carbon, filtered and the filtrate evaporated to give 3.2 g. (40 %) of the title compound, M.P. 177°-179° C. Infrared (KBr) cm-1 : 1610, 1660, 1720, 3100-2600; 1H-NMR (D6 -dimethylsulfoxide) ppm (delta): 2.70 (d, 2H), 3.45 (m, 3H), 3.70 (m, 1H), 4.48 (m, 1H); Mass spectrum (m/e): 159.9 (M+).

reactant | methyl 4-bromocrotonate | 0.05 mole | BrC/C=C/C(=O)OC | C5H7BrO2
reactant | thiourea | 0.05 mole | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | 0.10 mole | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 0.05 mole | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 2-(2-Amino-2-thiazolin-4-yl)acetic Acid Hydrochloride | 40 % | Cl.NC=1SCC(N1)CC(=O)O | InChI=1S/C5H8N2O2S.ClH/c6-5-7-3(2-10-5)1-4(8)9;/h3H,1-2H2,(H2,6,7)(H,8,9);1H
